US03948949
2.4 g. of 2-(2-xanthenyl)-propylamine (obtainable from 2-(2-xanthenyl)-propionamide with LiAlH4) is dissolved in 50 ml. of 15% aqueous acetic acid and mixed, under ice cooling, with a solution of 1 g. of NaNO2 in 5 ml. of water. The mixture is heated for 1 hour to 80°, worked up as usual, and chromatographic purification on silica gel yields 2-(2-xanthenyl)-propanol, m.p. 86°-89°.

reactant | 2-(2-xanthenyl)-propylamine | C1=C(C=CC=2OC3=CC=CC=C3CC12)C(CN)C | C16H17NO
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | NaNO2 | N(=O)[O-].[Na+]
solvent | water | O | H2O
product | 2-(2-xanthenyl)-propanol | C1=C(C=CC=2OC3=CC=CC=C3CC12)C(CO)C | C16H16O2
